US07456164B2
1-isopropyl-4-[4-(3-pyrrolidin-1-ylpropoxy)phenyl]piperidine-4-carbonitrile
The title compound (45 mg, 58%) was prepared from 4-[4-(3-pyrrolidin-1-ylpropoxy)phenyl]piperidine-4-carbonitrile, acetone and sodium triacetoxyborohydride similarly to the procedure used for example 54. 1H NMR (400 MHz, CD3OD) 61.12 (d, 6H), 1.81-1.84 (m, 4H), 1.99-2.14 (m, 6H), 2.58-2.69 (m, 8H), 2.82 (m, 1H), 3.02 (d, 2H), 4.04 (t, 2H), 6.96 (d, 2H), 7.42 (d, 2H). HRMS ESI+ m/z 356.2691 [MH]+.

reactant | 4-[4-(3-pyrrolidin-1-ylpropoxy)phenyl]piperidine-4-carbonitrile | N1(CCCC1)CCCOC1=CC=C(C=C1)C1(CCNCC1)C#N | C19H27N3O
reactant | sodium triacetoxyborohydride | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
reactant | acetone | CC(=O)C | C3H6O
product | 1-isopropyl-4-[4-(3-pyrrolidin-1-ylpropoxy)phenyl]piperidine-4-carbonitrile | 45 mg, 58% | C(C)(C)N1CCC(CC1)(C#N)C1=CC=C(C=C1)OCCCN1CCCC1 | C22H33N3O
